US08440689B2
B. Methyl 6-((1R,2S)-2-aminocyclohexylamino)-4-cyano-2-(3-(methylsulfonyl)phenylamino)nicotinate
To a solution of methyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-cyano-2-(3-(methylsulfonyl)phenylamino)nicotinate (178.3 mg, 0.328 mmol) in HOAc (4 mL) was added HCl (4 mL, 132 mmol). The mixture was stirred at RT for 4 h and then concentrated under reduced pressure. Water (15 mL) and 1M HCl (15 mL) were added to the concentrate and the aqueous layer was washed with EtOAc (10 mL). The washed aqueous layer was basified with saturated aqueous NaHCO3 (50 mL) and extracted with EtOAc (2×30 mL). The organic layers were combined, washed with saturated aq NaHCO3 (20 mL), water (20 mL) and brine (20 mL), dried over anhydrous Na2SO4, and filtered. The filtrate was concentrated under reduced pressure to give the title compound as a brown solid (123.2 mg, 85%). 1H-NMR (CDCl3) δ ppm 1.45-16.4 (m, 6H), 1.77-1.79 (m, 4H), 3.06 (s, 3H), 3.17-3.18 (m, 1H), 3.94 (s, 3H), 4.10-4.14 (m, 1H), 6.03-6.05 (m, 1H), 6.29 (s, 1H), 7.48-7.51 (m, 1H), 7.58-7.60 (m, 1H), 7.71-7.72 (m, 1H), 8.53 (s, 1H), 11.01 (s, 1H).

reactant | methyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-cyano-2-(3-(methylsulfonyl)phenylamino)nicotinate | 0.328 mmol, 178.3 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C(=O)OC)C(=C1)C#N)NC1=CC(=CC=C1)S(=O)(=O)C | C26H33N5O6S
reactant | HCl | 132 mmol, 4 mL | Cl | ClH
solvent | HOAc | 4 mL | CC(=O)O | C2H4O2
product | Methyl 6-((1R,2S)-2-aminocyclohexylamino)-4-cyano-2-(3-(methylsulfonyl)phenylamino)nicotinate | 123.2 mg, 85% | N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C(=O)OC)C(=C1)C#N)NC1=CC(=CC=C1)S(=O)(=O)C | C21H25N5O4S
